US08008487B2
5-Hydroxy-4-[1-(4-methoxyphenyl)ethylamino]thieno[2,3-d]pyrimidine-6-carboxylic Acid Ethyl Ester (Compound 52)
A stirred solution of 4-chloro-5-hydroxythieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (0.5 g, 1.9 mol), 1-(4-methoxyphenyl)ethylamine (0.4 g, 2.5 mol) and triethylamine (1 mL) in DMF (20 mL) was warmed to 60° C. for one hour. The reaction mixed was diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was recrystallized from methylene chloride and hexane to give product (0.25 g, 0.7 mol, 36 percent) yield.

reactant | 4-chloro-5-hydroxythieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 1.9 mol, 0.5 g | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)O | C8H5ClN2O3S
reactant | 1-(4-methoxyphenyl)ethylamine | 2.5 mol, 0.4 g | COC1=CC=C(C=C1)C(C)N | C9H13NO
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 5-Hydroxy-4-[1-(4-methoxyphenyl)ethylamino]thieno[2,3-d]pyrimidine-6-carboxylic Acid Ethyl Ester | 0.7 mol, 0.25 g, 36 percent | C(C)OC(=O)C1=C(C2=C(N=CN=C2NC(C)C2=CC=C(C=C2)OC)S1)O | C18H19N3O4S
